US09029409B2
To a stirred solution of methyl 6-((tert-butyldimethylsilyloxy)methyl)-2-methylpyrimidine-4-carboxylate (4.70 g, 15.86 mmol, Preparation #6) in MeOH (50 mL) were added DIEA (8.3 mL, 47.59 mmol Spectrochem) and 4-fluoro-3-methoxybenzylamine (3.8 g, 24.58 mmol, WO 2008/083056). The reaction mixture was heated to about 70° C. for about 15 h. The solvents were removed in vacuo and the crude material partitioned between EtOAc (300 mL) and 1N HCl solution (300 mL). The layers were separated and the aqueous layer extracted with EtOAc (1×150 mL). The combined organic layers were washed successively with 1N HCl solution (1×200 mL), water (1×200 mL) and brine (1×250 mL), dried over sodium sulphate and evaporated to dryness. The residue obtained was purified by silica gel (60-120 mesh) chromatography eluting with 25 to 35% of EtOAc in hexane. Relevant fractions containing the target compound were combined and evaporated to dryness under reduced pressure to afford 6-((tert-butyldimethylsilyloxy)methyl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide 5.4 g (81%); 1H NMR (400 MHz, DMSO): δ 9.431-9.400 (t, J=6.0 Hz, 1H), 7.884 (s, 1H), 7.173-7.112 (m, 2H), 6.897-6.860 (m, 1H), 4.794 (s, 2H), 4.468-4.452 (d, J=6.4 Hz, 2H), 3.814 (s, 3H), 2.68 (s, 3H), 0.934 (s, 9H), 0.118 (s, 6H), MS m/z: 420 (M+H).

reactant | methyl 6-((tert-butyldimethylsilyloxy)methyl)-2-methylpyrimidine-4-carboxylate | 15.86 mmol, 4.70 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NC(=N1)C)C(=O)OC | C14H24N2O3Si
reactant | DIEA | 47.59 mmol, 8.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluoro-3-methoxybenzylamine | 24.58 mmol, 3.8 g | FC1=C(C=C(CN)C=C1)OC | C8H10FNO
solvent | MeOH | 50 mL | CO | CH4O
product | 6-((tert-butyldimethylsilyloxy)methyl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 5.4 g, 81% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC | C21H30FN3O3Si
